US07470710B2
Description 32: (RS)-1-Benzyl-2-cyanomethylpiperidine
(RS)-1-Benzyl-2-bromomethylpiperidine, D31 (4.2 g) was dissolved in dry dimethylsulphoxide (15 ml) and treated with sodium cyanide (5.0 g). The solution was then stirred at 85° C. under argon for 18 h. The reaction solution was then poured into water (300 ml) and extracted with dichloromethane (2×200 ml). The organic solution was dried (MgSO4) and the solvent removed in vacuo. Chromatography (silica gel, diethyl ether/petroleum ether mixtures) afforded the title compound (3.3 g).

reactant | (RS)-1-Benzyl-2-bromomethylpiperidine | C(C1=CC=CC=C1)N1C(CCCC1)CBr | C13H18BrN
reactant | sodium cyanide | 5.0 g | [C-]#N.[Na+]
reactant | water | 300 ml | O | H2O
solvent | dimethylsulphoxide | 15 ml | CS(=O)C | C2H6OS
product | (RS)-1-Benzyl-2-cyanomethylpiperidine | 3.3 g | C(C1=CC=CC=C1)N1C(CCCC1)CC#N | C14H18N2
